US08420670B2
Pyridine-3-sulfonic {2-[4-(3,4-dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}amide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and pyridine-3-sulfonyl chloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | pyridine-3-sulfonyl chloride | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | Pyridine-3-sulfonic {2-[4-(3,4-dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}amide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNS(=O)(=O)C=2C=NC=CC2)C)C=CC1Cl | C24H22Cl2N4O3S
